US07238813B2
4-Nitro-3-fluorophenyl tetrahydropyranyl ether
To the mixture of 3-fluoro-4-nitrophenol (25 g, 0.160 mol) and 3,4-dihydro-2H-pyran (14 g, 0.167 mol)in dicloromethane (200 ml), pyridinium p-toluenesulfonate (4.0 g, 16 mol) was added portionly under ice-water bath. After overnight at room temperature, the reaction mixture was pored to Si-column chromatography. Eluting by Hexane Ethyl acetate (3:1), the desired product was obtained at 35.5 g (92%) as light yellow solid.

reactant | 3-fluoro-4-nitrophenol | 0.160 mol, 25 g | FC=1C=C(C=CC1[N+](=O)[O-])O | C6H4FNO3
reactant | 3,4-dihydro-2H-pyran | 0.167 mol, 14 g | O1CCCC=C1 | C5H8O
reactant | pyridinium p-toluenesulfonate | 16 mol, 4.0 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | dicloromethane | 200 ml | ClCCl | CH2Cl2
product | 4-Nitro-3-fluorophenyl tetrahydropyranyl ether | O1C(CCCC1)OC1=CC(=C(C=C1)[N+](=O)[O-])F | C11H12FNO4
